US05965614
3,4-Dichloroaniline (Aldrich) was treated with di-tert-butyl dicarbonate (Aldrich) using conventional procedures to produce the N-BOC aniline. The N-BOC aniline was treated with sodium hydride in THF and then with iso-butyl 2-bromoacetate (from Example D above) to produce the N-BOC N-(3,4-dichlorophenyl)glycine iso-butyl ester. The BOC group was then removed using General Procedure N above to afford the title compound. The reaction was monitored by tlc on silica gel (Rf=0.78 in 50% EtOAc/hexanes) and purification was by preparative plate chromatography (silica gel using 50% EtOAc/hexanes as the eluant).

reactant | 3,4-Dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | N-BOC aniline | C(=O)(OC(C)(C)C)NC1=CC=CC=C1 | C11H15NO2
